US07816522B2
To a solution of 281 mg of {2-(8-methoxychroman-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanyl-ethylidene}carbamic acid methyl ester in 2 ml of DMF there were added 58 mg of 2-hydrazinopyrimidine and 130 μl of triethylamine, and the mixture was stirred overnight at 85° C. under a nitrogen atmosphere. The reaction mixture was concentrated, and the residue was dissolved in 8.75 ml of a methanol:acetic acid=10:1 mixed solvent. After adding 265 mg of sodium cyanotrihydroborate to the reaction mixture, the mixture was stirred at room temperature for 1 hour. Water was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate) to give 5-{(8-methoxychroman-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one.

reactant | {2-(8-methoxychroman-6-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanyl-ethylidene}carbamic acid methyl ester | 281 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=C2CCCOC2=C(C1)OC)SC)=O | C24H24N4O5S
reactant | 2-hydrazinopyrimidine | 58 mg | N(N)C1=NC=CC=N1 | C4H6N4
reactant | triethylamine | 130 μl | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-{(8-methoxychroman-6-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one | COC=1C=C(C=C2CCCOC12)C(C=1NC(N(N1)C1=NC=CC=N1)=O)NC1=CC=C(C=C1)C1=NOC(=N1)C | C26H24N8O4
